US05908843
0.17 ml of ethyldiisopropylamine is added to a solution of 201 mg of 1-amidino-3,5-dimethylpyrazole nitrate in 17 ml of dioxane and 5 ml of water and the mixture is stirred for 15 minutes. 357 mg of 3-(3-(piperazin-1-ylcarboxamido)benzamido)propionic acid hydrochloride (FAB 321; obtainable by reacting benzyl 3-(3-aminobenzamido)propionate with diphosgene to give benzyl 3-(3-isocyanatobenzamido)propionate, adding on 1-BOC-piperazine to give benzyl 3-(3-(4-BOC-piperazin-1-ylcarboxamido)benzamido)propionate, cleaving the BOC group with 4 N HCl in dioxane to give benzyl 3-(3-(piperazin-1-ylcarboxamido)benzamido)propionate hydrochloride (FAB 411) and hydrogenolyzing on 5% Pd/C) and a further 0.17 ml of ethyldiisopropylamine are then added, the mixture is boiled for 45 hours and evaporated, the residue is dissolved in water and the solution is washed with ether and then with ethyl acetate and evaporated again to give 3-(3-(4-amidinopiperazin-1-ylcarboxamido)benzamido)propionic acid, m.p. 234° (decomposition).

reactant | ethyldiisopropylamine | 0.17 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-amidino-3,5-dimethylpyrazole nitrate | 201 mg | [N+](=O)(O)[O-].C(N)(=N)N1N=C(C=C1C)C
reactant | benzyl 3-(3-aminobenzamido)propionate | NC=1C=C(C(=O)NCCC(=O)OCC2=CC=CC=C2)C=CC1 | C17H18N2O3
reactant | diphosgene | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | benzyl 3-(3-isocyanatobenzamido)propionate | N(=C=O)C=1C=C(C(=O)NCCC(=O)OCC2=CC=CC=C2)C=CC1 | C18H16N2O4
